US07244730B2
(Step 6) Synthesis of 2-Cyclopropyl-5H-pyrrolo[3,4-b]pyridine-7-amine
Triphenylphosphine (365 mg, 1.39 mmol) was added at room temperature to a solution of the 3-(azidomethyl)-6-cyclopropyl-2-pyridinecarbonitrile (230 mg, 1.15 mmol) in a tetrahydrofuran (4 ml) —H2O (0.2 ml) mixed solvent and the mixture was stirred for 3 hours. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography, to yield the title compound (180 mg, 90%) as a white amorphous solid from the ethyl acetate-methanol-29% NH3(aq) (30:10:1) elution fraction.

reactant | Triphenylphosphine | 1.39 mmol, 365 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(azidomethyl)-6-cyclopropyl-2-pyridinecarbonitrile | 1.15 mmol, 230 mg | N(=[N+]=[N-])CC=1C(=NC(=CC1)C1CC1)C#N | C10H9N5
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | H2O | 0.2 ml | O | H2O
product | 2-Cyclopropyl-5H-pyrrolo[3,4-b]pyridine-7-amine | 180 mg, 90% | C1(CC1)C1=CC=C2C(=N1)C(=NC2)N | C10H11N3
